US05202454
Preparation of 1-bromoethyl phenyl carbonate
15.4 g (0.077 mol) of 1-chloroethyl phenyl carbonate, 0.44 g (0.0014 mol) of tetrabutylammonium bromide and 13.7 g (0.090 mol) of trimethylsilane bromide are introduced into a distillation apparatus equipped with a 15 cm Vigreux column, a thermometer and a stirrer. The mixture is heated at 90° C. for 24 h and the trimethylsilane chloride released is removed by distillation. The product expected is then distilled. 17.2 g (Yld=91%) are obtained.

reactant | 1-chloroethyl phenyl carbonate | 0.077 mol, 15.4 g | C(OC(C)Cl)(OC1=CC=CC=C1)=O | C9H9ClO3
reactant | trimethylsilane bromide | 0.090 mol, 13.7 g | [Br-].C[SiH](C)C
catalyst | tetrabutylammonium bromide | 0.0014 mol, 0.44 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-bromoethyl phenyl carbonate | C(OC(C)Br)(OC1=CC=CC=C1)=O | C9H9BrO3
